US06664265B2
A solution of tert-butyl 2-[2-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate (13.78 g 35.8 mmol) in 175 mL of CHCl3 was treated with 3-chloroperoxybenzoic acid (MCPBA, 70%, 10.28 g, 41.7 mmol). After stirring for 3 h, the reaction mixture was treated with water (100 mL) and CHCl3 (50 mL) and the layers were separated. The organic portion was washed with 1% Na2CO3 solution (2×), water and brine then dried over Na2SO4 and concentrated to give 14.35 g tert-butyl 2-[2-(2-ethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate as a sticky tan solid.

reactant | tert-butyl 2-[2-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 35.8 mmol, 13.78 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCNC(OC(C)(C)C)=O | C21H28N4O3
reactant | 3-chloroperoxybenzoic acid | 41.7 mmol, 10.28 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | water | 100 mL | O | H2O
solvent | CHCl3 | 175 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-[2-(2-ethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 14.35 g | C(C)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCNC(OC(C)(C)C)=O | C21H28N4O4
